US08012956B2
To a solution of methyl 3-[(trans-4-hydroxycyclohexyl)amino]benzoate (0.25 g, 1.00 mmol) in a mixture of methanol (20 mL), terahydrofuran (10 mL) and water (10 mL) was added a 4M aqueous solution of potassium hydroxide (0.5 mL, 2.00 mmol), and the reaction mixture was heated to reflux for five minutes. The organic portion of the solvent was evaporated, and the pH of the aqueous solution was adjusted to 2 by the addition of 2M aqueous hydrochloric acid. The aqueous mixture was partitioned with ethyl acetate, the organic layer was separated and washed with brine, dried over sodium sulfate, filtered, and the solution was concentrated to give 3-[(trans-4-hydroxycyclohexyl)amino]benzoic acid (40 mg, 17%). MS (EI) for C13H17NO3: 234 (M−H).

reactant | methyl 3-[(trans-4-hydroxycyclohexyl)amino]benzoate | 1.00 mmol, 0.25 g | O[C@@H]1CC[C@H](CC1)NC=1C=C(C(=O)OC)C=CC1 | C14H19NO3
reactant | terahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | water | 10 mL | O | H2O
reactant | potassium hydroxide | 2.00 mmol, 0.5 mL | [OH-].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | 3-[(trans-4-hydroxycyclohexyl)amino]benzoic acid | 40 mg, 17% | O[C@@H]1CC[C@H](CC1)NC=1C=C(C(=O)O)C=CC1 | C13H17NO3
